US03931218
A solution of 37 grams of ψ-acid chloride of 0-benzoyl benzoic acid in 60 ml. of dichloromethane was added dropwise to a stirred solution of 38.5 grams of N-[2-(isopropylamino) ethyl]-p-toluenesulfonamide, 200 ml. of dichloromethane and 25 ml. of triethylamine. The mixture was refluxed for 3.5 hours. After cooling, the solution was extracted successively with water, 10% hydrochloric acid, and saturated sodium carbonate solution. The dichloromethane solution was dried over magnesium sulfate and the solvent evaporated in vacuo to a solid residue. On recrystallization from ethyl acetate there was obtained 2-benzoyl-N-[2-(p-toluenesulfonamido)ethyl]-N-isopropylbenzamide, m.p. 135°-137°C.

reactant | 0-benzoyl benzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | N-[2-(isopropylamino) ethyl]-p-toluenesulfonamide | 38.5 grams | C(C)(C)NCCNS(=O)(=O)C1=CC=C(C=C1)C | C12H20N2O2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-benzoyl-N-[2-(p-toluenesulfonamido)ethyl]-N-isopropylbenzamide | C(C1=CC=CC=C1)(=O)C1=C(C(=O)N(C(C)C)CCNS(=O)(=O)C2=CC=C(C=C2)C)C=CC=C1 | C26H28N2O4S
